US08258130B2
Diethyl-iso-propylamine (3.54 mmol) is added a solution of 2-pyridin-2-yl-pyrimidine-5-carboxylic acid HCl (1.18 mmol), 5-methanesulfonyl-indol-1-ylamine (1.18 mmol) and TBTU (1.77 mmol) in anhydrous DMF (16 mL) at rt. The reaction mixture is stirred at 90° C. overnight and then concentrated in vacuo. The residue is dissolved in EtOAc (50 mL) and water (50 mL). The organic layer is separated, washed with water (2×20 mL) and brine (20 mL), dried (Na2SO4), filtered and concentrated in vacuo. The residue is triturated with EtOAc and DCM to afford 2-pyridin-2-yl-pyrimidine-5-carboxylic acid (5-methanesulfonyl-indol-1-yl)-amide (125 mg, 27%) as a solid. MS: 394 (M+H); 1H NMR (300 MHz, CD3OD): δ 3.14 (s, 3H), 6.82 (m, H) 7.50-7.72 (m, 3H), 7.80 (m, H), 8.07 (m, H), 8.30 (m, 2H), 8.70(d, H), 8.80 (s, H), 9.51 (s, 2H).

reactant | Diethyl-iso-propylamine | 3.54 mmol | C(C)N(C(C)C)CC | C7H17N
reactant | 2-pyridin-2-yl-pyrimidine-5-carboxylic acid HCl | 1.18 mmol | Cl.N1=C(C=CC=C1)C1=NC=C(C=N1)C(=O)O
reactant | 5-methanesulfonyl-indol-1-ylamine | 1.18 mmol | CS(=O)(=O)C=1C=C2C=CN(C2=CC1)N | C9H10N2O2S
reactant | TBTU | 1.77 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
product | 2-pyridin-2-yl-pyrimidine-5-carboxylic acid (5-methanesulfonyl-indol-1-yl)-amide | 125 mg, 27% | CS(=O)(=O)C=1C=C2C=CN(C2=CC1)NC(=O)C=1C=NC(=NC1)C1=NC=CC=C1 | C19H15N5O3S
